* c:\users\admin\esim-workspace\parity_checker\parity_checker.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ parity_checker
* u2  net-_r1-pad2_ net-_u1-pad1_ adc_bridge_1
* u3  net-_u1-pad2_ net-_r2-pad2_ dac_bridge_1
r1  net-_r1-pad1_ net-_r1-pad2_ 100k
r2  net-_r1-pad1_ net-_r2-pad2_ 100k
v1  net-_r1-pad2_ net-_r1-pad1_ pulse(0 5 0 0.001n 0.001n 5n 10n)
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
a2 [net-_r1-pad2_ ] [net-_u1-pad1_ ] u2
a3 [net-_u1-pad2_ ] [net-_r2-pad2_ ] u3
* Schematic Name:                             parity_checker, NgSpice Name: parity_checker
.model u1 parity_checker(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-09 100e-09 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
